US09193692B2
H. 1-(((trans)-4-Methoxycyclohexyl)methyl)-7-(4-methyl-6-(1H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
(Z)—N-((Dimethylamino)methylene)-5-(8-(((trans)-4-methoxycyclohexyl)methyl)-7-oxo-5,6,7,8-tetrahydropyrazino[2,3-b]pyrazin-2-yl)-4-methylpicolinamide (0.467 g, 1.00 mmol) was added to acetic acid (6 mL). The reaction was cooled to 0° C. and hydrazine (1.00 mL, 32 mmol) was added dropwise. The reaction was allowed to stir and warm to 25° C. over 10 min. Reaction was concentrated under a stream of nitrogen placed in reaction vessel. Water (5 mL) was added and the product was collected by filtration and purified using reverse-phase semi-preparatory HPLC (20-70% acetonitrile+0.1% TFA in H2O+0.1% TFA, over 30 min). Clean fractions were combined and condensed under reduced pressure and dried under high vacuum to afford the title compound as a yellow solid (0.046 g, 0.106 mmol, 11% yield). 1H NMR (400 MHz, METHANOL-d4) δ (ppm) 8.72 (s, 1H), 8.62 (s, 1H), 8.37 (s, 1H), 7.93 (s, 1H), 4.30 (s, 2H), 3.99 (d, J=7.03 Hz, 2H), 3.32 (s, 3H), 3.08-3.17 (m, 1H), 2.71-2.76 (m, 3H), 2.06 (br. s., 2H), 1.80-1.89 (m, 1H), 1.74 (br. s., 2H), 1.09 (d, J=11.32 Hz, 4H); MS (ESI) m/z 435.5 [M+1]+.

reactant | (Z)—N-((Dimethylamino)methylene)-5-(8-(((trans)-4-methoxycyclohexyl)methyl)-7-oxo-5,6,7,8-tetrahydropyrazino[2,3-b]pyrazin-2-yl)-4-methylpicolinamide | 1.00 mmol, 0.467 g | CN(C)\C=N/C(C1=NC=C(C(=C1)C)C=1C=NC2=C(N(C(CN2)=O)C[C@@H]2CC[C@H](CC2)OC)N1)=O | C24H31N7O3
reactant | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
reactant | hydrazine | 32 mmol, 1.00 mL | NN | H4N2
solvent | Water | 5 mL | O | H2O
product | 1-(((trans)-4-Methoxycyclohexyl)methyl)-7-(4-methyl-6-(1H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.106 mmol, 0.046 g, 11% yield | CO[C@@H]1CC[C@H](CC1)CN1C(CNC=2C1=NC(=CN2)C=2C=NC(=CC2C)C2=NNC=N2)=O | C22H26N8O2
